US06291619B1
At room temperature, 4.211 g (20 mmol) of trimellitic acid anhydride chloride (TMA) was added to a solution of 4.966 g (20 mmol) of bis(4-aminophenyl) sulfone in 68 ml of NMP, and the resulting mixture was stirred for 2 hours. Then, 2.9 ml (21 mmol) of triethylamine was added at 5° C. and stirred at room temperature for 10 hours. By dropwise adding the reaction mixture into 1.5 liters of water, there was obtained a polyamic acid (TMA/DDSO) as a solid product in a yield of 9.06 g.

reactant | trimellitic acid anhydride chloride | 20 mmol, 4.211 g | C1=CC2=C(C=C1C(=O)Cl)C(=O)OC2=O | C9H3ClO4
reactant | bis(4-aminophenyl) sulfone | 20 mmol, 4.966 g | NC1=CC=C(C=C1)S(=O)(=O)C1=CC=C(C=C1)N | C12H12N2O2S
reactant | triethylamine | 21 mmol, 2.9 ml | C(C)N(CC)CC | C6H15N
reactant | water | 1.5 liters | O | H2O
solvent | NMP | 68 ml | CN1CCCC1=O | C5H9NO
product | TMA DDSO | C1=CC2=C(C=C1C(=O)Cl)C(=O)OC2=O.C1=CC(=CC=C1N)S(=O)C2=CC=C(C=C2)N | InChI=1S/C12H12N2OS.C9H3ClO4/c13-9-1-5-11(6-2-9)16(15)12-7-3-10(14)4-8-12;10-7(11)4-1-2-5-6(3-4)9(13)14-8(5)12/h1-8H,13-14H2;1-3H
